US08629270B2
tert-Butyl(4aR,7aR)-2-benzamido-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate
tert-Butyl(3R,4R)-3-amino-4-(hydroxymethyl)-3-isothiazol-5-yl-pyrrolidine-1-carboxylate (148.10 g, 494.67 mmol) and tetrahydrofuran (1.48 L) are added together and the solution is cooled to 0° C. Benzoyl isothiocyanate (82.34 g, 504.56 mmol) is added over 5 minutes and the reaction mixture is stirred for 30 minutes at 0° C. and then warmed to room temperature over 1 hour. 1,1′-Carbonyldiimidazole (92.24 g, 568.87 mmol) is added and the reaction mixture is stirred at room temperature for 2 h. The mixture is heated to 65° C. and stirred for a further 12 hours. The reaction mixture is concentrated under reduced pressure and the oily residue is partitioned between water (1.5 L) and ethyl acetate (1.5 L). The pH is adjusted with citric acid 50% w/w aq. solution to 4.0 and the organic layer is separated. The aqueous layer is extracted with MTBE (2×500 mL), the organics are combined, dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude product is slurried in MTBE (740.50 mL) at 60° C. then at room temperature for 45 minutes. The solid is collected, washed with MTBE (4×150 mL), and dried under vacuum overnight to give the title compound as an off white solid (162.68 g, 74.0%). ES/MS (m/e): 445 (M+H), ee=99.5%.

reactant | tert-Butyl(3R,4R)-3-amino-4-(hydroxymethyl)-3-isothiazol-5-yl-pyrrolidine-1-carboxylate | 494.67 mmol, 148.10 g | N[C@]1(CN(C[C@H]1CO)C(=O)OC(C)(C)C)C1=CC=NS1 | C13H21N3O3S
reactant | Benzoyl isothiocyanate | 504.56 mmol, 82.34 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 1,1′-Carbonyldiimidazole | 568.87 mmol, 92.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 1.48 L | O1CCCC1 | C4H8O
product | tert-Butyl(4aR,7aR)-2-benzamido-7a-isothiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CN(C2)C(=O)OC(C)(C)C)C2=CC=NS2 | C21H24N4O3S2
